US08242175B2
Methanesulfonic acid 3-((E)-3-{4-[(E)-2-(tetrahydro-pyran-2-yloxycarbamoyl)-vinyl]-phenyl}-acryloyl)-benzyl ester
Methanesulfonyl chloride (0.41 ml, 5.3 mmol) was added to a stirred solution of (E)-3-{4-[(E)-3-(3-hydroxymethyl-phenyl)-3-oxo-propenyl]-phenyl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide (1.08 g, 2.68 mmol) and TEA (1.47 ml, 10.6 mmol) in DCM (18 ml) and DMF (12 ml). The mixture was stirred at room temperature for 30 min and then brought to basic conditions with 5% NaHCO3. The resulting slurry was extracted with Et2O and the organic phase was washed with water, dried over Na2SO4 and evaporated in vacuo. The crude reaction mixture was purified by column chromatography (eluent: petroleum ether/AcOEt 1:1) to give 600 mg of a mixture of the title compound and (E)-3-{4-[(E)-3-(3-chloromethyl-phenyl)-3-oxo-propenyl]-phenyl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide as the main product.

reactant | Methanesulfonyl chloride | 5.3 mmol, 0.41 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (E)-3-{4-[(E)-3-(3-hydroxymethyl-phenyl)-3-oxo-propenyl]-phenyl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 2.68 mmol, 1.08 g | OCC=1C=C(C=CC1)C(/C=C/C1=CC=C(C=C1)/C=C/C(=O)NOC1OCCCC1)=O | C24H25NO5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 18 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
product | Methanesulfonic acid 3-((E)-3-{4-[(E)-2-(tetrahydro-pyran-2-yloxycarbamoyl)-vinyl]-phenyl}-acryloyl)-benzyl ester | 600 mg | O1C(CCCC1)ONC(=O)/C=C/C1=CC=C(C=C1)/C=C/C(=O)C=1C=C(COS(=O)(=O)C)C=CC1 | C25H27NO7S
